Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"Real bad issues with Bipolar ..thoughts of hanging
myself..hearing voices saying things repeating names saying I'm
gonna get you."

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ yo cauc. male with reported hx of Bipolar Do
and hx of PSA, cocaine, prescibed methadone and past hx of
alcohol abuse but has been sober for many years.He self 
presented
to the ED with si and reports hearing voices telling him "I'm
gonna get you." He reports that he was seen @ ___
ED 3 days ago and was placed in day program @ ___ but left
because he said " he felt over whelmed" and couldn't toerate
being around the people.He reports that the voices are "never
ending" and feels very depressed and that he cannot function.He
said " having very bad thoughts about people in my head and I
hear swearing all the time and feels that he can't control his
thoughts and feels that he could hurt himself.He also reports
paranoid ideation and said " I don't know who it is" and reports
that he hears songs in his head which he said that he cannot
tolerate.He said " I feel so debiliated with what's going on 
with
me"
The patient was a limited historian and vague about dates and
previous treatment hx, however in speaking with his psychiatrist
Dr. ___ has been treating him for ___ years provided  a
more recent hx.
She reports that the patient is most likey Schizoaffective and 
at
baseline is paranoid and frequently has referential thinking and
can present as manic and or hypomanic.He was referred to her 
from
___ which is an affliate of ___ by a CNS
as he was on prescribed methadone for back pain and she felt 
that
she needed more support in managing his treamtent.When Dr.
___ started treating him he was on Methadone for back
pain prescribed by his PCP ___ ___ years.His PCP @ ___ reviewed 
his
medial records and could not find any docuementation that he had
back pain and discontiuned the methadone 4 months ago and the
patient had had 2 positive tox screens for cocaine.When he was
confronted about the pos tox screens he became cvery angry and
got into a verbal alteracation with his provider.Dr. ___ 
___
that he became more upset and paranoid to the point that he was
"totally crazy" and created " a scene" and since the
discontinuation of the Methadone he has been unstable.He was
started on Suboxone in an attempt to restabilze his "pain".The
patient then stopped all his medications and became more 
paranoid
and irritable and on ___ he had a"melt down" in Dr. 
___ and made accusations about people breaking HIPPA rules. 
He
became threatening and in an attempt to de-esaalte him, told him
that he could pull himself together and come back the next day
and see her or be escorted by security to the ED. He was able to
pull himself together and return the nexr day for an
appointment.She said that he saw his therapist ___ @ 
___
yesterday but at present does not have a scheduled appointment
with her but she is still his psychiatrist.Her thoughts were 
that
he may be possible more destabilzed and if he continued to say
that he was suicidal that she would not be opposed to
hospitalization. 
She reports that he ahs a hx of overusing his medications and is
prescribed 15 day supplies of Klonopin and Suboxone.

 
Past Medical History:
PSYCHIATRIC HISTORY (INCLUDE PRIOR HOSPITALIZATIONS, OUTPATIENT
TREATMENTS, MEDICATION/ECT HISTORY, RESPONSE TO TREATMENT,
HISTORY OF HOMICIDAL/SUICIDAL/ASSAULTIVE BEHAVIOR):
* Psychiatrsit Dr. ___ @ ___ ___ page ___
* Therapist ___ @ ___
* ___ 4 weeks ago
* ___ ED ___ reports that he was referred to
  ___ day program and left 3 days ago
* ___ this past year ? date
* reports that he had several hospitalizations in the ___
  but does not remember the names of the hospitals
* denies hx of SA

PAST MEDICAL HISTORY (INCLUDE HISTORY OF HEAD TRAUMA, SEIZURES,
OR OTHER NEUROLOGIC ILLNESS):
* PCP ___ { attending} @ ___
   resident ___
* hx of chronic back pain form a "removal of a tumor"
* ?past treatment for a melanoma

 
Social History:
SUBSTANCE ABUSE HISTORY (INCLUDE HISTORY OF D.T.'S, WITHDRAWAL
SEIZURES, BLACKOUTS, DETOX TREATMENT, I.V. USAGE):
alcohol: past hx of abuse with blackouts, denies w/d sezures
         reports that he stopped drinking many years ago
drugs:hx of cocaine abuse, has been on prescribed methadone for
      the past ___ years that was discontinued 4 months ago, but 
      still has"some pills left"
tob:denies
___ cuops of coffee a day

SOCIAL HISTORY (FAMILY OF ORIGIN, CHILDHOOD, PHYSICAL/SEXUAL
ABUSE HISTORY, EDUCATION, EMPLOYMENT, RELATIONSHIPS, SEXUAL
HISTORY/STD RISKS, MILITARY RECORD, LEGAL HISTORY, ETC.):
The patient was born and grewup in ___ and is the ___ of 
6
boys and both parents are deceased.He reports that his mother 
was
an alcoholic and a hx of psychiatric admission that started when
he was a child.He completed school through the 12 grade but left
before he graduated and went to work in ___.
He was never married but has a ___ yr old son that he has no
contact with. He reports that he works as a ___ for woman who is on dialysis and lives with him.He is
currently on SSDI and has been for the past ___ years.

 
Family History:
mother alcohol abuse and psychiatry hx with hospitalization

 
Physical Exam:
PHYSICAL EXAMINATION:
VS:  BP: 135/89  HR: 88  Temp: 98.9   RR: 16   O2 sat: 97% RA   
Height: ___  Weight: 225 lbs
 
MENTAL STATUS EXAM:
--appearance: Causacian male with good grooming, appearing 
stated
age, makes good eye contact.  Appears anxious.
--behavior/attitude: Cooperative with exam.  Occasionally 
appears
to respond to internal stimuli during pauses in interview and
closes his eyes and looks distressed.  No PMA/PMR. 
--speech: Normal rate, slightly decreased volume and prosody,
without dysarthria or aphasia. 
--mood: "Depressed." 
--affect: Constricted to dysthymic. Appears anxious and
distressed, especially when complaining of auditory
hallucinations.  Affect is congruent to mood.
--thought content: Focuses on severity of voices. 
--thought process: Linear when responding to questions, but some
difficult in recounting recent events in a linear fashion. 
?Distracted by AH.
--perception: significant for AH and paranoia
--SI/HI: significant for SI; no HI and no history of violence.
--insight: Fair. Asks whether voices are real or not, seems
willing to believe that they are not.  Verbalizes having bipolar
disorder.
--judgment: Fair.
 
COGNITIVE EXAM:
--orientation: alert to person, place, time, situation
--attention/concentration: when asked to recite MOYB: ___
--memory (ball, chair, purple): immediate recall ___ and remote
___
--calculations: quarters in $2.25 = 9
--language: grossly intact
--fund of knowledge: able to recall the president on ___ 
--proverbs: 
"don't cry over spilt milk" : "don't take things so seriously"
"apple falling from tree" : "they're talking about family"
--similarities/analogies: "apples to oranges" : "they're both
fruit"

PE:
General: Well-nourished, in no distress.
HEENT: Normocephalic. PERRL, EOMI. Some yellowish exudate on
tongue.
Neck: Supple, trachea midline.  No adenopathy or thyromegaly.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal
pulses
Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
*Cranial Nerves-
I: Not tested
II: PERRLA
III, IV, VI: EOMI bilaterally without nystagmus
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: SCM normal bilaterally.
XII: Tongue midline without fasciculations.
*Motor- Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout with repeated
prompting.
*Sensation- Intact to light touch, pinprick and vibration
bilaterally.
*Reflexes- 2+ upper and lower extremity reflexes, symmetric
throughout. Downgoing Babinskis bilaterally.
*Coordination- Normal on finger-nose-finger, rapid alternating
movements.  Normal gait.

 
Pertinent Results:
___ 12:00PM   GLUCOSE-108* UREA N-15 CREAT-1.0 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-25 ANION GAP-15
___ 12:00PM   ALT(SGPT)-59* AST(SGOT)-38 ALK PHOS-98 TOT 
BILI-0.5
___ 12:00PM   CALCIUM-9.3 PHOSPHATE-3.1 MAGNESIUM-2.3
___ 12:00PM   TSH-1.9
___ 12:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-POS
___ 12:00PM   WBC-8.9 RBC-4.61 HGB-15.3 HCT-42.1 MCV-91 
MCH-33.2* MCHC-36.3* RDW-13.2
___ 12:00PM   NEUTS-73.9* ___ MONOS-2.5 EOS-0.4 
BASOS-0.7
___ 12:00PM   PLT COUNT-315
___ 12:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
 
Brief Hospital Course:
Psychiatric: Mr. ___ was admitted to the inpatient 
psychiatric service on Deaconess 4 on ___. At his initial 
meeting with care providers, he seemed anxious and irritable, 
and he was complaining of hearing voices, the description of 
which was vague and varied from interview to interview. The team 
restarted his outpatient wellbutrin, klonopin, and zyprexa. 
Small doses of haldol were added in the morning and afternoon. 
His abilify was tapered and ultimately discontinued. The team 
was concerned that his complaint of hearing voices just over the 
past few months was atypical. His story was corroborated by the 
woman he cares for, when social work spoke with her. 
Consideration was given to getting an MR brain with and without 
contrast to look for occult malignancy. However, a detailed 
neurological exam was completely normal, and his symptoms 
improved during the hospitalization. If the voices return or 
other atypical features are noted, we would recommend outpatient 
brain imaging. While admitted, he spent most of his time on the 
unit in his room, infrequently socializing with other patients. 
He did not attend any groups initially, but as his symptoms 
waned he began to attend psycho-education groups and participate 
productively in the discussion. By ___, the team felt that 
he was appropriate for discharge to his outpatient psychiatry 
appointment at ___. He was also scheduled to attend a partial 
hospitalization program starting one day after his discharge. At 
the time of discharge, he was no longer hearing any voices, and 
his mood had brightened somewhat. He did not endorse suicidal or 
homicidal ideation at any time during his admission. He 
continued to display a flat affect and limited ability to 
understand his psychiatric condition. He was not given any 
prescriptions at the time of discharge, because the team thought 
it would be optimal for all of his medications to be prescribed 
by the same provider. He was to bring a list of his hospital 
medications to his outpatient psychiatrist, and get presciptions 
for the needed medications at that time. She was faxed this 
discharge summary in advance of their appointment as well. 

Safety: He was maintained on q 15 minute checks throughout his 
admission, and he did not have any behavioral triggers.

Legal: ___
Medications on Admission:
Buproprion XL 150 mg daily (filled ___
Abilify 20 mg daily (filled ___
Suboxone 8 mg bid (last filled ___ 
Klonopin 1 mg bid (last filled ___

He was also prescribed Risperdal 2 mg qhs (last filled ___
for thirty day supply), but does not think he has been taking it
at home.  He was also prescribed Seroquel 50 mg daily but was 
not
able to tolerate it secondary to sedation.

Also started on zyprexa at the ___ recently.
 
Discharge Medications:
1. buprenorphine-naloxone ___ mg Tablet, Sublingual Sig: One (1) 
Tablet Sublingual BID (2 times a day).  
2. clonazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. bupropion HCl 100 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO BID (2 times a day).  
4. haloperidol 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): Please take at 8am and 2pm.  
5. benztropine 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): Please take with Haldol doses - at 8am and 2pm.  
6. olanzapine 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I - Schizoaffective disorder versus BPAD with Psych
features 
Axis II -? Unclear yet.
Axis III -Ch. Back pain
Axis IV -Multiple, home based, medical, psych
Axis V - 50

 
Discharge Condition:
Vitals  98.3  93  122/85  12  96% RA

MSE: 
Appearance: well-groomed man, appears stated age
Behavior: no extra abnormal movements, mild PMR
Speech: slow rate, low volume, and normal prosody
Mood: 'regular'
Affect: flat
TP: linear
TC: paucity of content, focused on wanting to leave the 
hospital,
denies SI/HI
Perception: voices have resolved
I/J: limited/fair

 
Discharge Instructions:
You have been started on a new medication called Haldol, and 
your abilify has been stopped. Please take all medications as 
prescribed and follow up at the appointments listed below.
 
Followup Instructions:
___